US06756378B2
To a stirred solution of benzyl 4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetate (2.04 g, 5 mmol) in THF (40 mL) was added 0.25 N NaOH (40 mL). The resulting mixture was stirred overnight. The mixture was poured into 1 N HCl (10 mL), and the resulting precipitate was collected with suction. The residue was recrystallized from CHCl3—EtOH to give 1.04 g (66%) 4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetic acid as a white crystalline powder. mp 185-188 (d); 1H-NMR (DMSO-d6) δ3.50 (2H, s), 3.82 (3H, s), 6.78 (1H, dd, J=1.4 and 8.3 Hz), 6.92 (1H, d, J=1.4 Hz), 6.95-7.01 (1H, m), 7.10-7.14 (1H, m), 7.19-7.24 (1H, m), 8.01 (1H, d, J=8.3 Hz), 8.14-8.18 (1H, m), 8.72 (1H, s), 9.17 (1H, s); MS (FAB) m/z 319 (M++1); Anal. Calcd. for C16H15N2O4F: C, 60.37; H, 4.75; N, 8.80. Found: C, 60.20; H, 4.82; N, 8.67.

reactant | benzyl 4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetate | 5 mmol, 2.04 g | FC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OCC1=CC=CC=C1)OC)=O | C23H21FN2O4
reactant | NaOH | 0.25 N, 40 mL | [OH-].[Na+]
reactant | HCl | 1 N, 10 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetic acid | 1.04 g, 66% | FC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H15FN2O4
